US07776857B2
In a 20 mL sealed tube, was dissolved 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenoxy)-1,5-naphthyridin-2(1H)-one (0.25 g, 0.508 mmol) in THF (2.2 mL), and the mixture was cooled to 0° C. Sodium Hydride, 60% in mineral oil (0.045 g, 1.12 mmol), was added and the mixture was stirred at 0° C. for 1 hour. Iodomethane (0.070 mL, 1. 12 mmol), was added and the mixture was warmed to 60° C., and stirred for 3 hours. A mixture of products was revealed by LC/MS. The mixture was cooled to RT, quenched with water, extracted into ethyl acetate, washed 1× water, 1× NaCl, dried with Na2SO4, filtered through fritted funnel, and filtrate was concentrated. The crude concentrate was purified by reverse phase chromatography. The product containing fractions were extracted into DCM, washed 1× sodium carbonate, 1×H2O, dried with Na2SO4, filtered through fritted funnel, and the filtrate was concentrated down to a light yellow solid containing two methylated products. The solids were suspended in methanol, filtered, rinsed with methanol, and air dried to yield 8-(4-((4-(4-chlorophenyl)phthalazin-1-yl)(methyl)amino)phenoxy)-1,5-naphthyridin-2(1H)-one. MS: [M+H]=506.0; Calc'd 505.9 for C29H20ClN5O2.

reactant | 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenoxy)-1,5-naphthyridin-2(1H)-one | 0.508 mmol, 0.25 g | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC=2C=CN=C3C=CC(NC23)=O)C=C1 | C28H18ClN5O2
reactant | Sodium Hydride | [H-].[Na+]
reactant | Iodomethane | 12 mmol, 0.070 mL | IC | CH3I
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
product | 8-(4-((4-(4-chlorophenyl)phthalazin-1-yl)(methyl)amino)phenoxy)-1,5-naphthyridin-2(1H)-one | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N(C1=CC=C(OC=2C=CN=C3C=CC(NC23)=O)C=C1)C | C29H20ClN5O2
